US07598264B2
2-(3-Chloro-4-fluorobenzyl)-8-hydroxy-2,3,4,6-tetrahydro-2,6-naphthyridine-1,7-dione
A mixture of 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid (0.30 g, 0.82 mmol) and quinoline (0.11 g, 0.82 mmol) was heated at 190° C. for 2.5 hours. The product mixture was cooled to room temperature and triturated with diethyl ether. The solid precipitated was filtered, and was subjected to preparative reverse phase HPLC purification. Collection and lyophilization of appropriate fractions provide the titled compound.

reactant | 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid | 0.82 mmol, 0.30 g | ClC=1C=C(CN2C(C3=C(C(NC(=C3CC2)C(=O)O)=O)O)=O)C=CC1F | C16H12ClFN2O5
reactant | quinoline | 0.82 mmol, 0.11 g | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 2-(3-Chloro-4-fluorobenzyl)-8-hydroxy-2,3,4,6-tetrahydro-2,6-naphthyridine-1,7-dione | ClC=1C=C(CN2C(C3=C(C(NC=C3CC2)=O)O)=O)C=CC1F | C15H12ClFN2O3
